** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/nandgate/schematic/nand.sch
**.subckt nand a b out vss vdd
*.iopin vdd
*.iopin a
*.iopin vss
*.iopin out
*.iopin b
XM1 out a vdd vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
XM2 out a net1 vss sg13_lv_nmos w=1.5u l=0.15u ng=1
XM3 net1 b vss vss sg13_lv_nmos w=1.5u l=0.15u ng=1
XM4 out b vdd vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
**.ends
.end
